US08980911B2
A well stirred mixture of 2,6-dichloro-4-(ethylcarbamoyl)benzoic acid (84.6 mg, 0.42 mmol), 1-hydroxy-7-azabenzotriazole (77 mg, 0.57 mmol), N,N-dimethyl aminopyridine (22 mg, 0.11 mmol) and 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium (216 mg, 0.57 mmol) in N,N-dimethylaniline was treated with N-(1H-pyrrolo[3,2-c]pyridin-4-yl)cyclopropanecarboxamide (100 mg, 0.38 mmol) and N,N-diisopropylethylamine (0.1 ml, 0.95 mmol). The reaction was stirred overnight at room temperature. The contents were diluted with water and extracted with ethyl acetate. The combined organic portion was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated. The crude product was purified by silica gel column chromatography using methanol in dichloromethane (3%) as eluent to yield 3,5-dichloro-4-({4-[(cyclopropylcarbonyl)amino]-1H-pyrrolo[3,2-c]pyridin-1-yl}carbonyl)-N-ethylbenzamide (45 mg, 26%) as an off white solid.

reactant | 2,6-dichloro-4-(ethylcarbamoyl)benzoic acid | 0.42 mmol, 84.6 mg | ClC1=C(C(=O)O)C(=CC(=C1)C(NCC)=O)Cl | C10H9Cl2NO3
reactant | 1-hydroxy-7-azabenzotriazole | 0.57 mmol, 77 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium | 0.57 mmol, 216 mg | C[NH3+].F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C.F[P-](F)(F)(F)(F)F
reactant | N-(1H-pyrrolo[3,2-c]pyridin-4-yl)cyclopropanecarboxamide | 0.38 mmol, 100 mg | N1C=CC=2C(=NC=CC21)NC(=O)C2CC2 | C11H11N3O
reactant | N,N-diisopropylethylamine | 0.95 mmol, 0.1 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
solvent | water | O | H2O
product | 3,5-dichloro-4-({4-[(cyclopropylcarbonyl)amino]-1H-pyrrolo[3,2-c]pyridin-1-yl}carbonyl)-N-ethylbenzamide | 45 mg, 26% | ClC=1C=C(C(=O)NCC)C=C(C1C(=O)N1C=CC=2C(=NC=CC21)NC(=O)C2CC2)Cl | C21H18Cl2N4O3
